US08030500B2
4-Fluoro-1-(3-(4-methoxypyridin-2-yl)phenyl)-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described in Example 29 in 13% yield starting from 1-(3-bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine (0.150 g, 0.36 mmol) and 4-methoxy-2-(tributylstannyl)pyridine (0.188 g, 0.47 mmol).

reactant | 1-(3-bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.36 mmol, 0.150 g | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H15BrFN3O
reactant | 4-methoxy-2-(tributylstannyl)pyridine | 0.47 mmol, 0.188 g | COC1=CC(=NC=C1)[Sn](CCCC)(CCCC)CCCC
product | 4-Fluoro-1-(3-(4-methoxypyridin-2-yl)phenyl)-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 13% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)OC)C1=CC(=CC=C1)C1=NC=CC(=C1)OC)N | C26H21FN4O2
